US07585881B2
3-cyanobenzohydrazide
3-cyanobenzoyl chloride (4.8 g, 29.0 mmol) was dissolved in DCM (20 ml) and MeOH (40 ml) was added in portions at 0° C. The mixture was stirred at 0° C. for 1 h and at rt for 2 h. The solvents were evaporated and the crude methyl ester was dissolved in EtOH (50 ml) and hydrazine (24% aq., 9 ml, 45 mmol) was added. The reaction mixture was refluxed for 48 h and the solvents were evaporated (coevaporation with water). The residue was purified with prep. HPLC to give the title compound (1.8 g, 39%). 1H NMR (DMSO-d6): 9.98 (br s, 1 H), 8.21 (m, 1 H), 8.13 (m, 1 H), 7.99 (m, 1 H), 7.69 (t, 1 H), 4.61 (br s, 2 H).

reactant | 3-cyanobenzoyl chloride | 29.0 mmol, 4.8 g | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
reactant | MeOH | 40 ml | CO | CH4O
reactant | hydrazine | 45 mmol, 9 ml | NN | H4N2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-cyanobenzohydrazide | 1.8 g, 39% | C(#N)C=1C=C(C(=O)NN)C=CC1 | C8H7N3O
